US07858640B2
[8-chloro-3-(4-chlorobenzyl)-4-methoxy-2-methylquinolin-5-yloxy]acetic Acid Methyl Ester
A mixture of [8-chloro-3-(4-chlorobenzyl)-2-methyl-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic acid methyl ester (0.13 g), iodomethane (0.20 mL), N,N-dimethylformamide (1.0 mL) and potassium carbonate (0.14 g) were stirred at room temperature for 22 hours. The mixture was diluted with water and extracted with ethyl acetate and the combined extracts were washed with saturated aqueous sodium chloride solution and dried over magnesium sulfate. The solvent was removed under reduced pressure and purification of the residue by column chromatography on silica gel, eluting with a mixture of ethyl acetate and dichloromethane (1:19 to 19:1 by volume) gave title compound as a gum, 0.059 g.

reactant | [8-chloro-3-(4-chlorobenzyl)-2-methyl-4-oxo-1,4-dihydroquinolin-5-yloxy]acetic acid methyl ester | 0.13 g | COC(COC1=C2C(C(=C(NC2=C(C=C1)Cl)C)CC1=CC=C(C=C1)Cl)=O)=O | C20H17Cl2NO4
reactant | iodomethane | 0.20 mL | IC | CH3I
reactant | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 0.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | [8-chloro-3-(4-chlorobenzyl)-4-methoxy-2-methylquinolin-5-yloxy]acetic Acid Methyl Ester | COC(COC1=C2C(=C(C(=NC2=C(C=C1)Cl)C)CC1=CC=C(C=C1)Cl)OC)=O | C21H19Cl2NO4
